US07732477B2
N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-5-(benzoylamino)-1-benzothiophene-2-carboxamide hydrochloride
30 mg (0.08 mmol) of N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-5-amino-1-benzo-thiophene-2-carboxamide dihydrochloride are dissolved in 1 ml of DMF, and 33.5 μl (0.24 mmol) of triethylamine are added. At 0° C., 16.9 mg (0.12 mmol) of benzoyl chloride are added. After 3 h of stirring at RT, the reaction mixture is separated by preparative HPLC. The product fraction is concentrated under reduced pressure and codistilled with 4M HCl in dioxane. 9 mg (25.4% of theory) of the title compound are obtained.

reactant | N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-5-amino-1-benzo-thiophene-2-carboxamide dihydrochloride | 0.08 mmol, 30 mg | Cl.Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=C(C=C1)N
reactant | triethylamine | 0.24 mmol, 33.5 μl | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.12 mmol, 16.9 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N-[(3R)-1-Azabicyclo[2.2.2]oct-3-yl]-5-(benzoylamino)-1-benzothiophene-2-carboxamide hydrochloride | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC1=C(C2)C=C(C=C1)NC(C1=CC=CC=C1)=O | InChI=1S/C23H23N3O2S.ClH/c27-22(16-4-2-1-3-5-16)24-18-6-7-20-17(12-18)13-21(29-20)23(28)25-19-14-26-10-8-15(19)9-11-26;/h1-7,12-13,15,19H,8-11,14H2,(H,24,27)(H,25,28);1H/t19-;/m0./s1
